US07405228B2
(S)-N-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-difluoroacetamide
The mixture of (S)-N-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine (0.5 g, 1.45 mmol), oxalyl chloride (0.150 ml, 1.74 mmol), difluoroacetic acid (0.1 ml, 1.74 mmol) and triethylamine (0.242 ml, 1.74 mmol) in dichloromethane (20 ml) was stirred for 1 hour at room temperature. The reaction mixture was extracted with the dichloromethane water mixture. The combined organic layer was dried and removal of the solvent afforded a residue which was chromatographed over silica gel to give title compound in 48% yield.

reactant | (S)-N-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine | 1.45 mmol, 0.5 g | C(#N)C=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN)=O)F | C17H19FN4O2
reactant | oxalyl chloride | 1.74 mmol, 0.150 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | difluoroacetic acid | 1.74 mmol, 0.1 ml | FC(C(=O)O)F | C2H2F2O2
reactant | triethylamine | 1.74 mmol, 0.242 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-N-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-difluoroacetamide | 48% yield | C(#N)C=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C(F)F)=O)=O)F | C19H19F3N4O3
